US06706745B1
Methyl 3-(3-Cyanophenyl)-5-(aminomethyl)benzoate
The Methyl 3-(3-cyanophenyl)-5-(azidomethyl)benzoate obtained as above was put in a flask, dissolved in 66 mL of ethanol, and after 1.1 g of palladium-barium carbonate was added, the air in flask was displaced with hydrogen. Stirring was continued at room temperature for 6 hours, the catalyst was subjected to celite-filteration, and the filtrate was concentrated and purified with silica gel chromatography to produce 794 mg of the title compound (Yield of the two steps: 90%).

reactant | Methyl 3-(3-cyanophenyl)-5-(azidomethyl)benzoate | C(#N)C=1C=C(C=CC1)C=1C=C(C(=O)OC)C=C(C1)CN=[N+]=[N-] | C16H12N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 66 mL | C(C)O | C2H6O
catalyst | palladium-barium carbonate | 1.1 g | C([O-])([O-])=O.[Ba+2].[Pd+2].C([O-])([O-])=O
product | Methyl 3-(3-Cyanophenyl)-5-(aminomethyl)benzoate | 794 mg | C(#N)C=1C=C(C=CC1)C=1C=C(C(=O)OC)C=C(C1)CN | C16H14N2O2
